US05486466
A mixture of 4.67 g of methyl 2-allyl-3,5-dihydroxy-6-methylbenzoate and 0.23 g of 5% palladium on charcoal in 40 ml of ethyl acetate was hydrogenated for 2 hours at atmospheric pressure. The mixture was filtered and the filtrate evaporated in vacuo. Crystallization of the residue from ethyl acetate/hexane afforded 4.30 g of methyl 3,5-dihydroxy-2-methyl-6-propylbenzoate, m.p. 88°-91° C.

reactant | methyl 2-allyl-3,5-dihydroxy-6-methylbenzoate | 4.67 g | C(C=C)C1=C(C(=O)OC)C(=C(C=C1O)O)C | C12H14O4
catalyst | palladium on charcoal | 0.23 g | [Pd] | Pd
solvent | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
product | methyl 3,5-dihydroxy-2-methyl-6-propylbenzoate | 4.30 g | OC=1C(=C(C(=O)OC)C(=C(C1)O)CCC)C | C12H16O4
